Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17]>>[C:13][C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12],3.75604382
[H:13].[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][O:8][H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][O:8][H:9])[C:10]([H:11])([H:12])[H:13],-4.623618368490001
[H:1][C:2][O:3][C:4]([O:6][C:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][C:2][O:3][C:4]([H:5])([O:6][C:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.27122484648
[C:1]=[C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1].[C:2](#[C:3][O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],3.1149848792
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13]>>[C:10]([H:11])[O:12][H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],3.55466192955
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]#[C:4][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:5],2.4073643604
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][H:4],5.643622388790001
[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][H:5],1.67314161956
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.5943857944
[H:1][C:2]([H:3])=[C:4]([H:5])[H:6].[O:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][O:8][C:9]([H:10])([H:11])[H:12],-0.16729906816
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7][H:8],7.44732992494
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[C:1][C:2][O:3].[C:4]([H:5])=[C:6]([H:7])[O:8][H:9],1.7004264269299998
[H:1][C:2][C:3]([H:4])([H:5])[C:6]=[O:7].[H:8]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8],-1.63528996553
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])[H:7])[C:12]([C:9]([O:8])([H:10])[H:11])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]1[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]1([H:13])[H:14],-2.77600652863
[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-0.906276625391
[O:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[O:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.54816043678
[H:1][O:2][O:3][C@@:4]1([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],0.14663979187
[C:2]([H:3])([H:4])[O:5][H:6].[O:1]>>[O:1][C:2]([H:3])([H:4])[O:5][H:6],-4.21953699618
[H:1][C:2]([O:3][C:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([O:3][C:4][C:5]([H:6])=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12],2.02376673203
[C:1]([C:2]([H:4])[C:9]([H:10])([H:11])[O:12][H:13])([H:6])([H:7])[H:8].[C:3]#[C:5]>>[C:1]#[C:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-5.25033747677
[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-10.61077175
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:9],3.80057314089
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],4.746451458969999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:5],1.88942398635
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])#[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][H:4],-0.4302609886899999
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:10].[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8][H:9])=[C:11]([H:12])[H:13],5.140096957780001
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],1.80373933747
[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.54586236214
